US04035376
To a stirred and refluxing Grignard-complex, previously prepared starting from 72 parts of 2-(3-bromo-o-tolyl)-2-methyl-1,3-dioxolane, 6.8 parts of magnesium and 180 parts of dry tetrahydrofuran, is added dropwise a solution of 30.6 parts of 2-thenonitrile in 90 parts of dry tetrahydrofuran. Upon completion, stirring at reflux is continued for 2 hours. The reaction mixture is allowed to stirr overnight at room temperature. After cooling to 0° C, the mixture is decomposed by the addition of 200 parts of a saturated ammonium chloride solution while keeping the temperature below 20° C. The product is extracted with 1200 parts of ether. The extract is washed three times with 300 parts of water and upon saturation of the ether-phase with gaseous hydrogen chloride, the ketimine-compound is separated as an oil. The ether is decanted and the oil is stirred and refluxed for 3 hours in 500 parts of a 6N hydrochloric acid solution. After cooling, the product is extracted with chloroform (2 × 225 parts). The extract is dried and evaporated. The residue is distilled twice, yielding 2'-methyl-3'-(2-thenoyl)acetophenone; bp. 185°-190° C at 0.4 mm. pressure.

reactant | 2-(3-bromo-o-tolyl)-2-methyl-1,3-dioxolane | BrC=1C(=C(C=CC1)C)C1(OCCO1)C | C11H13BrO2
reactant | magnesium | [Mg] | Mg
reactant | 2-thenonitrile | C1(=CC=CS1)C#N | C5H3NS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2'-methyl-3'-(2-thenoyl)acetophenone | CC1=C(C=CC=C1C(C1=CC=CS1)=O)C(C)=O | C14H12O2S
